US06884821B1
0.9 g of 2-ethyl-3-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}phenyl)-2-propenoate was dissolved in 15 ml ethanol and 15 ml ethyl acetate, and 0.6 g of palladium-carbon poisoned with ethylene diamine was added. The reaction solution was stirred at room temperature for 5 hours in a hydrogen atmosphere, and then the palladium-carbon was filtered off, and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 0.44 g of ethyl 2-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}benzyl)butanoate as a colorless oil.

reactant | 2-ethyl-3-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}phenyl)-2-propenoate | 0.9 g | C(C)C(C(=O)[O-])=CC1=CC(=C(C=C1)OC)CC(NC1=C(C=C(C=C1)Cl)Cl)=O
reactant | ethylene diamine | C(CN)N | C2H8N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
product | ethyl 2-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}benzyl)butanoate | 0.44 g | COC1=C(C=C(CC(C(=O)OCC)CC)C=C1)CC(NC1=C(C=C(C=C1)Cl)Cl)=O | C22H25Cl2NO4
